US09315487B2
(2S,4R)-1-Acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see Intermediate 7) (900 mg, 2.82 mmol), 1-(2-methoxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (852 mg, 3.38 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (309 mg, 0.422 mmol) and K2CO3 (895 mg, 6.48 mmol) were combined in 1,4-dioxane (12 ml) and water (4.0 ml) and heated at 110° C. for 60 min (microwave). The reaction was heated for a further 10 min and then, for a further 30 min under the same conditions. PdCl2(dppf) (309 mg, 0.422 mmol), K2CO3 (895 mg, 6.48 mmol) and water (1.5 ml) were added and the mixture heated at 110° C. for 30 min (microwave). The reaction mixture was partitioned between saturated aqueous sodium hydrogen carbonate (150 ml) and DCM (3×150 ml). The organics were combined, dried (hydrophobic frit) and evaporated under vacuum. The residue was dissolved in DCM, the solution applied to a silica cartridge (100 g) and purified the cartridge eluted with an ethyl acetate/cyclohexane gradient (0-100% over 10 CV followed by 100% ethyl acetate for 5 CV). The cartridge was washed using a methanol/DCM gradient (0-20% over 10 CV, followed by holding at 20% methanol/DCM for 5 CV). The cartridge was further washed using a gradient 2M ammonia in methanol/DCM (0-20% over 10 CV, followed by 2M ammonia in methanol/DCM 20% for 5 CV). The appropriate fractions were combined and evaporated under vacuum to leave 1-((2S,4R)-4-amino-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (631 mg, 1.921 mmol, 68% yield) as a brown glass. LCMS (HpH), Rt 0.68 min, MH+ 329

reactant | (2S,4R)-1-Acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)C | C12H15BrN2O
reactant | 1-(2-methoxyethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 3.38 mmol, 852 mg | COCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H21BN2O3
reactant | K2CO3 | 6.48 mmol, 895 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 4.0 ml | O | H2O
reactant | K2CO3 | 6.48 mmol, 895 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 1.5 ml | O | H2O
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.422 mmol, 309 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.422 mmol, 309 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-((2S,4R)-4-amino-6-(1-(2-methoxyethyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 1.921 mmol, 631 mg, 68% yield | N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)C=1C=NN(C1)CCOC)C(C)=O)C | C18H24N4O2
